US09029409B2
To a cold solution of N-(4-fluoro-3-methoxybenzyl)-2-methyl-6-(5-(piperidin-4-yl)-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide hydrochloride (0.12 g, 0.25 mmol, Preparation #K.1) and TEA (0.091 g, 0.9 mmol, Sd Fine Chem) in DCM (15 mL) was added dimethyl carbamoyl chloride (0.033 g, 0.31 mmol, Aldrich). The reaction mixture was slowly warmed to RT and stirred for about 1 h. The reaction mixture was diluted with DCM (20 mL) and washed with water (2×15 mL). The combined organic layers were dried over sodium sulphate and concentrated under reduced pressure. The crude material obtained was purified using silica gel column chromatography eluted with 2-3% methanol in DCM. Relevant fractions containing the required compound were combined and evaporated to dryness under reduced pressure to afford 6-(5-(1-(dimethylcarbamoyl)piperidin-4-yl)-4,5-dihydroisoxazol-3-yl)-N-(4-fluoro-3-methoxybenzyl)-2-methylpyrimidine-4-carboxamide as an off white solid 0.064 g (50%): LC/MS (Table 1, Method c) Rt=1.83 min; MS m/z: 499.3 (M+H)+.

reactant | N-(4-fluoro-3-methoxybenzyl)-2-methyl-6-(5-(piperidin-4-yl)-4,5-dihydroisoxazol-3-yl)pyrimidine-4-carboxamide hydrochloride | 0.25 mmol, 0.12 g | Cl.FC1=C(C=C(CNC(=O)C2=NC(=NC(=C2)C2=NOC(C2)C2CCNCC2)C)C=C1)OC
reactant | dimethyl carbamoyl chloride | 0.31 mmol, 0.033 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 6-(5-(1-(dimethylcarbamoyl)piperidin-4-yl)-4,5-dihydroisoxazol-3-yl)-N-(4-fluoro-3-methoxybenzyl)-2-methylpyrimidine-4-carboxamide | CN(C(=O)N1CCC(CC1)C1CC(=NO1)C1=CC(=NC(=N1)C)C(=O)NCC1=CC(=C(C=C1)F)OC)C | C25H31FN6O4
